US03992389
1-[1-(4-Acetamidophenoxy)-2-hydroxyprop-3-yl]-4-benzamidopiperidine
A solution of 2,3-epoxy-1-(4-acetamidophenoxy)-propane (5.18 g.) and 4-benzamidopiperidine (6.13 g.) in isopropanol (250 ml.) was refluxed for 24 hours, cooled and a white crystalline solid was filtered off (8.90 g.).This was recrystallised from isopropanol to give 7.41 g. of the title compound as a quarter hydrate, m.p. 226°-8° C. (Found: C, 66.35; H, 7.1; N, 10.1. C23H29N3O4.1/4 H2O requires C, 66.4; H, 7.15; N, 10.1%).

reactant | 2,3-epoxy-1-(4-acetamidophenoxy)-propane | 5.18 g | O1C(COC2=CC=C(C=C2)NC(C)=O)C1 | C11H13NO3
reactant | 4-benzamidopiperidine | 6.13 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 1-[1-(4-Acetamidophenoxy)-2-hydroxyprop-3-yl]-4-benzamidopiperidine | C(C)(=O)NC1=CC=C(OCC(CN2CCC(CC2)NC(C2=CC=CC=C2)=O)O)C=C1 | C23H29N3O4
